US06762205B1
Then, 31 mg of 4-[N-[4-(tert-butyldimethylsilyloxy)benzyl]-N-(4-pyridyl)amino]benzonitrile was dissolved in 0.33 ml of tetrahydrofuran, and 0.15 ml of a 1 M tetrahydrofuran solution of tetrabutyl-ammonium fluoride was added thereto, followed by stirring at room temperature for 45 minutes. After water was added to the reaction mixture, the product was extracted with tetrahydrofuran-diethyl ether (1:1). After the extract was washed with water and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resulting crude product was purified by TLC (using a 9:1 mixture of chloroform and methanol as the developing solvent) to obtain 14 mg of 4-[N-(4-hydroxybenzyl)-N-(4-pyridyl)amino]benzonitrile.

reactant | 4-[N-[4-(tert-butyldimethylsilyloxy)benzyl]-N-(4-pyridyl)amino]benzonitrile | 31 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CN(C2=CC=NC=C2)C2=CC=C(C#N)C=C2)C=C1 | C25H29N3OSi
reactant | tetrabutyl-ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 0.33 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 M | O1CCCC1 | C4H8O
product | 4-[N-(4-hydroxybenzyl)-N-(4-pyridyl)amino]benzonitrile | 14 mg | OC1=CC=C(CN(C2=CC=NC=C2)C2=CC=C(C#N)C=C2)C=C1 | C19H15N3O
